US04179502
In 10.5 ml of dichloromethane there were dissolved 2.1 g of diketene and, under stirring, a solution of 4.00 g of bromine in 12.5 ml of dichloromethane was added dropwise at a temperature not exceeding -20° C. After the dropwise addition was completed, the mixture was maintained at 0° C. for 10 minutes. Separately, 0.5 g of benzhydryl 7-amino-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate was suspended in 15 ml of dichloromethane and, under stirring, 1.37 ml of the above acid bromide solution were added at a temperature not exceeding -40° C. Following this dropwise addition, the mixture was stirred at room temperature for one hour. Then, a solution of 0.085 g of pyridine in 2 ml of dichloromethane was added and the mixture was further stirred for 30 minutes. A saturated aqueous solution of sodium chloride was added to the reaction mixture, which was then extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was evaporated off under reduced pressure and the residue was loosened up with the addition of ether. The resultant powder was recovered by filtration and dried. By the above procedure 0.383 g of benzhydryl 7-(4-bromo-3-oxobutyrylamino)-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate was obtained.

reactant | diketene | 2.1 g | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 4.00 g | BrBr | Br2
reactant | benzhydryl 7-amino-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate | 0.5 g | NC1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)NC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H21N5O4S2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 10.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | pyridine | 0.085 g | N1=CC=CC=C1 | C5H5N
product | benzhydryl 7-(4-bromo-3-oxobutyrylamino)-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate | 0.383 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)NC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C28H24BrN5O6S2
